US06750348B1
To a stirred solution of 4,5-dimethylphenylene-1,2-diamine (680 mg, 5 mmol) in 4N HCl (12 mL) was added chloroacetic acid (940 mg, 10 mmol). The solution was then heated to reflux for 17 hours, then cooled to room temperature. Solid sodium carbonate was then added slowly, with stirring, until the pH of the solution was approximately 9.0, at which point a beige precipitate formed. The aqueous phase was then diluted with water (10 mL) and extracted repeatedly with ethyl acetate. The combined organic fractions were then dried, concentrated and the residue was purified by column chromatography on silica gel (10% MeOH in CH2Cl2) to afford the desired 2-(chloromethyl)-5,6-dimethylbenzimidazole (530 mg, 54%). 1H NMR (CDCl3) δ 1.59 (br s, 1H), 2.31 (s, 6H), 4.83 (s, 2H), 7.42 (s, 2H).

reactant | 4,5-dimethylphenylene-1,2-diamine | 5 mmol, 680 mg | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | chloroacetic acid | 10 mmol, 940 mg | ClCC(=O)O | C2H3ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | HCl | 4N, 12 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 2-(chloromethyl)-5,6-dimethylbenzimidazole | 530 mg, 54% | ClCC=1NC2=C(N1)C=C(C(=C2)C)C | C10H11ClN2
